US06720322B2
To a suspension of 675 mg of NaH in 45 ml of DMF and 5 ml of DMPU was added 4.85 g of 2-butyne-1,4-diol. The mixture was stirred at room temperature until evolution of gas had ceased. Then 1.5 g of 4-tert.-butyl-N-[6-chloro-5-(2-methoxy-phenoxy)-2-morpholin-4-yl-pyrimidin-4-yl]-benzene sulfonamide was added and the resulting mixture was heated to 95° C. and stirred for 5 days. Eventually, the mixture was pourred into 150 ml of 10% aqueous citric acid and extracted three times with 150 ml of ethyl acetate. The organic layers were washed with water and brine, dried over MgSO4 and evaporated. The resulting residue was purified by column chromatography on silicagel eluting with hexane:ethyl acetate 1:1 to give 265 mg of 4-tert.-butyl-N-[6-(4-hydroxy-2-butynyloxy)-5-(2-methoxy-phenoxy)-2-morpholin-4-yl-pyrimidin-4-yl]-benzene sulfonamide as a beige foam along with 1.13 g of the starting material 4-tert.-butyl-N-[6-chloro-5-(2-methoxy-phenoxy)-2-morpholin-4-yl-pyrimidin-4-yl]-benzene sulfonamide. LC-MS: tR=5.39 min, [M+1]+=583.41, [M−1]−=581.35.

reactant | NaH | 675 mg | [H-].[Na+]
reactant | 2-butyne-1,4-diol | 4.85 g | C(C#CCO)O | C4H6O2
reactant | 4-tert.-butyl-N-[6-chloro-5-(2-methoxy-phenoxy)-2-morpholin-4-yl-pyrimidin-4-yl]-benzene sulfonamide | 1.5 g | C(C)(C)(C)C1=CC=C(C=C1)S(=O)(=O)NC1=NC(=NC(=C1OC1=C(C=CC=C1)OC)Cl)N1CCOCC1 | C25H29ClN4O5S
reactant | citric acid | 150 ml | C(CC(O)(C(=O)O)CC(=O)O)(=O)O | C6H8O7
solvent | DMF | 45 ml | CN(C)C=O | C3H7NO
solvent | DMPU | 5 ml | CN1CCCN(C1=O)C | C6H12N2O
product | 4-tert.-butyl-N-[6-(4-hydroxy-2-butynyloxy)-5-(2-methoxy-phenoxy)-2-morpholin-4-yl-pyrimidin-4-yl]-benzene sulfonamide | 265 mg | C(C)(C)(C)C1=CC=C(C=C1)S(=O)(=O)NC1=NC(=NC(=C1OC1=C(C=CC=C1)OC)OCC#CCO)N1CCOCC1 | C29H34N4O7S
